US07214824B2
17(d): N-{4-[(1R)-1-Aminoethyl]-2-methylphenyl}methanesulfonamide hydrochloride
To N-[4-((1R)-1-{[(R)-tert-butylsulfinyl]amino}ethyl)-2-methylphenyl]methanesulfonamide (530 mg,1.60 mmol) was added 10% methanolic hydrogen chloride (5.0 ml) and dioxane (5.0 ml). The solution was stirred at ambient temperature for 30 minutes and then concentrated under reduced pressure. Diethyl ether was added to precipitate amine hydrochloride. The precipitate was then filtered, washed with diethyl ether and collected to furnish 450 mg (quant.) of the title compound as a white solid.

reactant | N-[4-((1R)-1-{[(R)-tert-butylsulfinyl]amino}ethyl)-2-methylphenyl]methanesulfonamide | 1.60 mmol, 530 mg | C(C)(C)(C)[S@@](=O)N[C@H](C)C1=CC(=C(C=C1)NS(=O)(=O)C)C | C14H24N2O3S2
reactant | hydrogen chloride | 5.0 ml | Cl | ClH
solvent | dioxane | 5.0 ml | O1CCOCC1 | C4H8O2
product | N-{4-[(1R)-1-Aminoethyl]-2-methylphenyl}methanesulfonamide hydrochloride | Cl.N[C@H](C)C1=CC(=C(C=C1)NS(=O)(=O)C)C | InChI=1S/C10H16N2O2S.ClH/c1-7-6-9(8(2)11)4-5-10(7)12-15(3,13)14;/h4-6,8,12H,11H2,1-3H3;1H/t8-;/m1./s1
